US06943168B2
Synthesis of 6,6-bis-(4-fluoro-phenyl)-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hex-5-en-1-one (P58)
A solution of 6,6-bis-(4-fluoro-phenyl)-hex-5-enoic acid (2.64 g, 8.75 mmol) and CDI (1.42 g, 8.75 mmol) in dry THF (30 ml) was stirred for 1 hr at room temperature under nitrogen. A solution of piperazin-1-yl-(3,4,5,-trimethoxy-phenyl)-methanone (2.45 g, 8.75 mmol) in dry THF (30 ml) was added to above solution and resulting mixture stirred at room temperature overnight. The mixture is diluted with EtOAc (30 ml) and washed with water (2×30 ml) and dried over MgSO4. Evaporation of solvent followed by column chromatography using CH2Cl2:MeOH (15:1) gave the desired product in 49% yield.

reactant | 6,6-bis-(4-fluoro-phenyl)-hex-5-enoic acid | 8.75 mmol, 2.64 g | FC1=CC=C(C=C1)C(=CCCCC(=O)O)C1=CC=C(C=C1)F | C18H16F2O2
reactant | CDI | 8.75 mmol, 1.42 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | piperazin-1-yl-(3,4,5,-trimethoxy-phenyl)-methanone | 8.75 mmol, 2.45 g | N1(CCNCC1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C14H20N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 6,6-bis-(4-fluoro-phenyl)-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hex-5-en-1-one | 49% yield | FC1=CC=C(C=C1)C(=CCCCC(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=C(C=C1)F | C32H34F2N2O5
